US05250735
To a solution of 1.0 g (3.9 mmole) of 2-(1-cyclopenten-1-yl)-2-dimethylaminoethyl cyclopentanone hydrochloride and 8.1 mmole of 4-chloro-benzaldehyde in 40 ml of ethanol, 3.2 ml of 5N NaOH was added dropwise. The resulting mixture was stirred at about room temperature for about 12 hours and then mixed with 60 ml of water and extracted with ether. The ether extract was extracted with 6N HCl. The HCl extract was basified and extracted with ether, and then dried over anhydrous MgSO4. The ether solution was treated with ethanolic hydrogen chloride to give a precipitate, which was recrystallized from ethanol to give the 2-(1-Cyclopenten-1-yl)-2-dimethylaminoethyl-5-(E)-[(4-chloro) benzylidene] cyclopentanone hydrochloride. The melting point of the product was determined to be 234°-236° C.

reactant | 2-(1-cyclopenten-1-yl)-2-dimethylaminoethyl cyclopentanone hydrochloride | 3.9 mmole, 1.0 g | Cl.C1(=CCCC1)C1(C(CCC1)=O)CCN(C)C
reactant | 4-chloro-benzaldehyde | 8.1 mmole | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | water | 60 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | NaOH | 5N, 3.2 ml | [OH-].[Na+]
product | 2-(1-Cyclopenten-1-yl)-2-dimethylaminoethyl-5-(E)-[(4-chloro) benzylidene] cyclopentanone hydrochloride | Cl.C1(=CCCC1)C1(C(/C(/CC1)=C/C1=CC=C(C=C1)Cl)=O)CCN(C)C | InChI=1S/C21H26ClNO.ClH/c1-23(2)14-13-21(18-5-3-4-6-18)12-11-17(20(21)24)15-16-7-9-19(22)10-8-16;/h5,7-10,15H,3-4,6,11-14H2,1-2H3;1H/b17-15+;
